US06359145B1
Methyl α-(4-carbamoyl-1-imidazolyl)phenylacetate was prepared from methyl mandelate and 4-imidazolecarboxamide obtained in Preparation 1.

reactant | methyl mandelate | C(C(O)C1=CC=CC=C1)(=O)OC | C9H10O3
reactant | 4-imidazolecarboxamide | N1C=NC(=C1)C(=O)N | C4H5N3O
product | Methyl α-(4-carbamoyl-1-imidazolyl)phenylacetate | C(N)(=O)C=1N=CN(C1)C(C(=O)OC)C1=CC=CC=C1 | C13H13N3O3
